US04350637
A mixture of 5.2 g of benzyl L-leucinate, 4 g of (3RS, 3aRS,4RS,7RS,7aRS) 3-hydroxy-3a,4,7,7a-tetrahydro-1H,3H-4,7-methano-isobenzofuran-1-one and 40 ml of anhydrous benzene was refluxed for 90 minutes while azeotropically distilling off the water of reaction formed and was then evaporated to dryness under reduced pressure. The residue was added to isopropyl ether and the mixture was vacuum filtered to obtain 2.3 g of benzyl (αS,3S,3aS,4R,7S,7aR) α-[(1-oxo-3a,4,7,7a-tetrahydro-1H,3H-4,7-methano-isobenzofuran-3-yl)-amino]isohexanoate melting at 95° C.

reactant | benzyl L-leucinate | 5.2 g | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | 3-hydroxy-3a,4,7,7a-tetrahydro-1H,3H-4,7-methano-isobenzofuran-1-one | OC1OC(C2C3C=CC(C12)C3)=O | C9H10O3
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | benzyl (αS,3S,3aS,4R,7S,7aR) α-[(1-oxo-3a,4,7,7a-tetrahydro-1H,3H-4,7-methano-isobenzofuran-3-yl)-amino]isohexanoate | 2.3 g | O=C1O[C@@H]([C@H]2[C@H]3C=C[C@@H]([C@@H]12)C3)N[C@H](C(=O)OCC3=CC=CC=C3)CC(C)C | C22H27NO4
